US07714009B2
N2-Mesityl-1-methyl-1H-benzimidazole-2,7-diamine
To a solution containing 0.25 g (0.79 mmol) of 1-(3-amino-2-methylaminophenyl)-3-mesitylthiourea in acetonitrile was added 0.52 g (1.6 mmol) of mercury (II) chloride, and the mixture stirred for 1 h. The reaction mixture was diluted with ethyl acetate (2 ml) and filtered through a prepacked celite column. The filtrate was concentrated under reduced pressure and the residue purified via Biotage chromatography eluting with 20% ethyl acetate/dichloromethane to afford 0.12 g (55%) of product.

reactant | 1-(3-amino-2-methylaminophenyl)-3-mesitylthiourea | 0.79 mmol, 0.25 g | NC=1C(=C(C=CC1)NC(=S)NC1=C(C=C(C=C1C)C)C)NC | C17H22N4S
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | mercury (II) chloride | 1.6 mmol, 0.52 g | [Hg](Cl)Cl
product | N2-Mesityl-1-methyl-1H-benzimidazole-2,7-diamine | 0.12 g, 55% | C1(=C(C(=CC(=C1)C)C)NC1=NC2=C(N1C)C(=CC=C2)N)C | C17H20N4
